US09449732B2
The 4-(hexyloxy)phenyl 4-(benzyloxy)benzoate obtained as described above (5.0 g, 12.4 mmol) and palladium on carbon (2.5 g in the wet state) were placed in a sealed container under a nitrogen atmosphere, and dehydrated THF was slowly added thereto. Then, 28 mL of 1,4-cyclohexadiene was carefully and slowly added thereto dropwise, while heating at 60° C. and stirring. After the addition, the mixture was further stirred for additional 3 hours at 60° C. After the mixture was cooled to room temperature, the mixture was filtered through Celite and the solvents were removed by distillation. Thereby, a white solid compound, 4-(hexyloxy)phenyl 4-hydroxybenzoate (3.8 g) was obtained.

reactant | 4-(hexyloxy)phenyl 4-(benzyloxy)benzoate | C(C1=CC=CC=C1)OC1=CC=C(C(=O)OC2=CC=C(C=C2)OCCCCCC)C=C1 | C26H28O4
reactant | 1,4-cyclohexadiene | 28 mL | C1=CCC=CC1 | C6H8
catalyst | palladium on carbon | [Pd] | Pd
solvent | THF | C1CCOC1 | C4H8O
product | 4-(hexyloxy)phenyl 4-hydroxybenzoate | 3.8 g | OC1=CC=C(C(=O)OC2=CC=C(C=C2)OCCCCCC)C=C1 | C19H22O4
